US07790724B2
c) 2-(4,4-Dimethyl-cyclohex-1-enyl)-4-(1-trimethylstannanyl-1H-tetrazol-5-yl)-phenylamine
The title compound was prepared from 4-amino-3-(4,4-dimethyl-cyclohex-1-enyl)-benzonitrile (as prepared in the previous step, 245 mg, 1.08 mmol), and azidotrimethylstannane (246 mg, 1.19 mmol) according to the procedure in Example 52, step (c) (363 mg, 78%). Mass spectrum (ESI, m/z): Calcd. for C15H19N5, 270.1 (M-SnMe3+2H), found 270.1.

reactant | 4-amino-3-(4,4-dimethyl-cyclohex-1-enyl)-benzonitrile | NC1=C(C=C(C#N)C=C1)C1=CCC(CC1)(C)C | C15H18N2
reactant | azidotrimethylstannane | 1.19 mmol, 246 mg | N(=[N+]=[N-])[Sn](C)(C)C
product | 2-(4,4-Dimethyl-cyclohex-1-enyl)-4-(1-trimethylstannanyl-1H-tetrazol-5-yl)-phenylamine | CC1(CC=C(CC1)C1=C(C=CC(=C1)C1=NN=NN1[Sn](C)(C)C)N)C | InChI=1S/C15H18N5.3CH3.Sn/c1-15(2)7-5-10(6-8-15)12-9-11(3-4-13(12)16)14-17-19-20-18-14;;;;/h3-5,9H,6-8,16H2,1-2H3;3*1H3;/q-1;;;;+1
